US04066766
Antaki, J. Am. Chem. Soc., 80, 3066-9 (1958), reports the condensation of 2-aminoquinoline and ethylethoxymethylenecyanoacetate to give ethyl 2-quinolyaminomethylenecyanoacetate which when distilled under reduced pressure afforded 1-oxo-1H-pyrimido[1,2-a]quinoline-2-carbonitrile. The compound demonstrated antischistosomal action.

reactant | 2-aminoquinoline | NC1=NC2=CC=CC=C2C=C1 | C9H8N2
reactant | ethylethoxymethylenecyanoacetate | C(C)OC(C(C#N)=COCC)=O | C8H11NO3
product | 1-oxo-1H-pyrimido[1,2-a]quinoline-2-carbonitrile | O=C1C(=CN=C2N1C1=CC=CC=C1C=C2)C#N | C13H7N3O
